US07652041B2
Step 2: Preparation of 2-[3-(2,5-dimethyl-1H-pyrrol-1-yl)phenyl]propan-2-ol
A solution of 1-(3-bromophenyl)-2,5-dimethyl-1H-pyrrole (1.50 g, 6.00 mmol) in THF (25 mL) was cooled to −78° C. under an atmosphere of argon. To this solution was added n-BuLi (2.50 M in hexane, 2.76 mL, 6.90 mmol) dropwise via syringe. After 30 min, acetone (0.572 mL, 7.8 mmol) was added to the cold solution dropwise via syringe. After 10 min, the cold bath was removed and the reaction mixture was allowed to warm to rt. After 5.5 h, the reaction was quenched by the addition of water. The mixture was extracted with EtOAc and the organic solutions dried over Na2SO4, filtered, and concentrated. The residue was purified by column chromatography to give the desired product (0.84 g, 61%). LCMS: (FA) ES+ 230.1 (M+1).

reactant | 1-(3-bromophenyl)-2,5-dimethyl-1H-pyrrole | 6.00 mmol, 1.50 g | BrC=1C=C(C=CC1)N1C(=CC=C1C)C | C12H12BrN
reactant | n-BuLi | 6.90 mmol, 2.50 M, 2.76 mL | [Li]CCCC
reactant | acetone | 7.8 mmol, 0.572 mL | CC(=O)C | C3H6O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-[3-(2,5-dimethyl-1H-pyrrol-1-yl)phenyl]propan-2-ol | 0.84 g, 61% | CC=1N(C(=CC1)C)C=1C=C(C=CC1)C(C)(C)O | C15H19NO
